US07582673B2
To a solution of 4-fluorobenzene-1,2-diamine (1 mmol) in DCM (2 mL) and pyridine (2 mL) at 0° C., benzothiophene-2-sulfonyl chloride (2.2 mmol) was added in small portions. The reaction mixture was then stirred at rt until the reaction was complete as determined by TLC or LC-MS. The reaction mixture was then diluted with DCM (15 mL). The organic phase was washed with 10% aqueous HCl (5 mL), water (5 mL), and 5 mL of brine. The organic phase was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue obtained was purified by flash column chromatography eluting with DCM/EtOAc to obtain 192 mg of N,N′-(4-fluoro-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) as a solid.

reactant | 4-fluorobenzene-1,2-diamine | 1 mmol | FC=1C=C(C(=CC1)N)N | C6H7FN2
reactant | benzothiophene-2-sulfonyl chloride | 2.2 mmol | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N,N′-(4-fluoro-1,2-phenylene)bis(1-benzothiophene-2-sulfonamide) | 192 mg | FC1=CC(=C(C=C1)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2)NS(=O)(=O)C=2SC1=C(C2)C=CC=C1 | C22H15FN2O4S4
